US08247401B2
Step F: 3-(5-Cyclopropyl-4-methyl-4H-1,2,4-triazol-3-yl)-5-(5-methylpyridin-2-yl)benzoic acid
To a solution of tert-butyl 3-(5-cyclopropyl-4-methyl-4H-1,2,4-triazol-3-yl)-5-(5-methylpyridin-2-yl)benzoate (0.38 g, 0.97 mmol) in methyl alcohol (10 mL) was added trifluoroacetic acid (5.0 mL, 67.3 mmol) and hydrogen chloride (4.0 M in dioxane; 5.0 mL, 20.0 mmol). The reaction mixture was stirred at ambient temperature. After 18 h, the mixture was concentrated and dried under reduced pressure gave the hydrochloride salt of the title compound. MS 335.1 (M+1).

reactant | tert-butyl 3-(5-cyclopropyl-4-methyl-4H-1,2,4-triazol-3-yl)-5-(5-methylpyridin-2-yl)benzoate | 0.97 mmol, 0.38 g | C1(CC1)C=1N(C(=NN1)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NC=C(C=C1)C)C | C23H26N4O2
reactant | trifluoroacetic acid | 67.3 mmol, 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen chloride | 20.0 mmol, 4.0 M, 5.0 mL | Cl | ClH
solvent | methyl alcohol | 10 mL | CO | CH4O
product | 3-(5-Cyclopropyl-4-methyl-4H-1,2,4-triazol-3-yl)-5-(5-methylpyridin-2-yl)benzoic acid | C1(CC1)C=1N(C(=NN1)C=1C=C(C(=O)O)C=C(C1)C1=NC=C(C=C1)C)C | C19H18N4O2
